US05650533
Methyl 4-chloro-3-difluoromethyl-2-methylsulphenylbenzoate (9.1 g) and lithium hydroxide (2.2 g) were dissolved in methanol and water and the mixture stirred overnight at room temperature. The mixture was then evaporated and the residue dissolved in water and washed with ethyl acetate. The aqueous layer was acidified to pH 1 with 2M HCl and extracted with ethyl acetate. The organic extract was washed with water, dried (anhydrous magnesium sulphate) and filtered. The filtrate was evaporated to dryness yielding 4-chloro-3-difluoromethyl-2-methylsulphenylbenzoic acid (8.02 g) as a beige solid NMR (CDCl3) 2.5(s,3H), 7.5(d, 1H), 7.65(t, 1H), 7.8(d, 1H).

reactant | Methyl 4-chloro-3-difluoromethyl-2-methylsulphenylbenzoate | 9.1 g | ClC1=C(C(=C(C(=O)OC)C=C1)SC)C(F)F | C10H9ClF2O2S
reactant | lithium hydroxide | 2.2 g | [OH-].[Li+]
reactant | water | O | H2O
solvent | methanol | CO | CH4O
product | 4-chloro-3-difluoromethyl-2-methylsulphenylbenzoic acid | 8.02 g | ClC1=C(C(=C(C(=O)O)C=C1)SC)C(F)F | C9H7ClF2O2S
